US05273999
A mixture of 3.09 g (10.88 mmol) of 1-[2-hydroxy-4-(phenylmethoxy)-3-propylphenyl]ethanone, 1.55 g (13 mmol) of dimethylformamide dimethyl acetal, and 2.7 mL of xylene was stirred and heated in a 120°-130° C. oil-bath as methanol was distilled out using a 3 in. Vigreux column, over a 2 hr period. The bath temperature was then raised to 150°-160° C. and the reaction mixture was stirred at this temperature for an additional 30 min. The mixture was cooled and concentrated at 60° C./ high vacuum. To the viscous, red-brown, oily residue was added 2.48 g (13 mmol) of p-toluenesulfonic acid monohydrate and 25 mL of ethanol. The resulting solution was stirred and refluxed for 1.5 hr, then cooled and diluted with 100 mL of water. Work-up with ether in the usual manner gave a crude product which was purified by flash chromatography on silica gel, eluting with 1:1 hexane-ether. There was obtained 2.8 g (87.5%) of 7-(phenylmethoxy)-8-propyl-4H-1-benzopyran-4-one as a beige solid. An analytical specimen was obtained from another experiment by recrystallization from ethyl acetate-hexane, as a colorless solid, mp 87.5°-89° C.

reactant | 1-[2-hydroxy-4-(phenylmethoxy)-3-propylphenyl]ethanone | 10.88 mmol, 3.09 g | OC1=C(C=CC(=C1CCC)OCC1=CC=CC=C1)C(C)=O | C18H20O3
reactant | dimethylformamide dimethyl acetal | 13 mmol, 1.55 g | COC(N(C)C)OC | C5H13NO2
reactant | xylene | 2.7 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | p-toluenesulfonic acid monohydrate | 13 mmol, 2.48 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 100 mL | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 7-(phenylmethoxy)-8-propyl-4H-1-benzopyran-4-one | 2.8 g, 87.5% | C1(=CC=CC=C1)COC1=C(C2=C(C(C=CO2)=O)C=C1)CCC | C19H18O3
